Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1].[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],6.9172681301
[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])=[C:7]([H:8])[H:9].[H:10]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-3.73098745519
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[O:12][H:13].[H:8],2.00336492607
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.28347506847
[H:1][C:2]1=[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[O:9]1>>[H:1][C:2](=[C:3]=[O:4])[O:9][C:5]=[C:6]([H:7])[H:8],0.69157306992
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:6],3.1189697957200004
[H:1][O:2][C:3](=[C:4][H:5])[C@:9]([C:6]([H:7])[H:8])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[O:11][H:12],-3.29008454688
[H:1][C:9]([C:8]#[C:2])([H:10])[C:11]([H:12])[H:13].[H:3][C:7]=[C:4]([H:5])[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])=[C:11]([H:12])[H:13],-6.16897194585
[H:1][O:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.2808456753
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.53831779148
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],1.5210947198700002
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15],1.7815838798
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12],-10.70433095
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-1.85155529565
[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])=[C:10]1[H:11]>>[H:1][C:2]=[C:10](/[C:8](=[C:6](/[C:4](=[O:3])[H:5])[H:7])[H:9])[H:11],1.83912974564
[C:1]#[C:2][O:9][C:6]([C:4](=[O:3])[H:5])([H:7])[H:8]>>[C:1]=[C:2]1[O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9]1,0.7288821311589999
[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([O:6][H:7])=[O:8]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])[H:11],-1.84735300463
[C:10]([H:11])([H:12])=[C:13]([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],1.33951827567
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8].[C:9]([H:10])([H:11])[H:12],1.99646522842
[H:1][C:2]([H:3])([O:4])[C:11]([C:8]([C:5]([H:6])[H:7])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]1([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-3.37780543
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:1][C:2][O:3].[C:4]([H:5])([H:6])[O:7][H:8],1.02960099833
[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4](#[C:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3],4.50210097259
[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][H:7],3.05631019781
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2],8.28264949237
[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2](=[O:3])[C:10]([H:11])([H:12])[H:13],1.7866932826599995
[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10],-2.88032822454
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14],4.13338182924
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.96826069942
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[O:7].[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8],-1.03317393541
